US07919508B2
Scheme E, Step E3 4-Fluoro-N-{2-[4-((1R,3S)-1-formylaminomethyl-5-methoxy-6-methyl-isochroman-3-yl)-piperidin-1-yl]-ethyl}benzamide
(1R,3S)-N-{3-[1-(2-Amino-ethyl)-piperidin-4-yl]-5-methoxy-6-methyl-isochroman-1-ylmethyl}formamide was obtained by distributing the dihydrochloride between aqueous sodium hydroxide and dichloromethane and then evaporating the organic phase. To a mixture of IRA-67 (1.2 g) and (1R,3S)-N-{3-[1-(2-amino-ethyl)-piperidin-4-yl]-5-methoxy-6-methyl-isochroman-1-ylmethyl}formamide (0.3 g, 0.69 mmole) add chloroform (12 mL) and 4-fluorobenzoyl chloride (0.310 g, 1.95 mmole) in chloroform (2 mL). After 24 hours add additional 4-fluorobenzoyl chloride (0.3 g, 1.89 mmole) and IRA-67 (2 g). After an additional 18 hours add PS-trisamine (1.0 g of 3.75 mmole/g) and stir for 6 hours. Filter and concentrate, then flush the product over a 35 g silica gel cartridge (eluting with ammonium hydroxide:methanol:ethyl acetate 1:4:95). Collect the appropriate fraction and concentrate to obtain the title compound. CIMS 484, tR (min)=0.46.

reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | sodium hydroxide | [OH-].[Na+]
reactant | (1R,3S)-N-{3-[1-(2-amino-ethyl)-piperidin-4-yl]-5-methoxy-6-methyl-isochroman-1-ylmethyl}formamide | 0.69 mmole, 0.3 g | NCCN1CCC(CC1)[C@H]1O[C@H](C2=CC=C(C(=C2C1)OC)C)CNC=O | C20H31N3O3
reactant | 4-fluorobenzoyl chloride | 1.95 mmole, 0.310 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 4-fluorobenzoyl chloride | 1.89 mmole, 0.3 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | trisamine | 1.0 g | C(C(CO)(CO)N)O | C4H11NO3
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 12 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Fluoro-N-{2-[4-((1R,3S)-1-formylaminomethyl-5-methoxy-6-methyl-isochroman-3-yl)-piperidin-1-yl]-ethyl}benzamide | FC1=CC=C(C(=O)NCCN2CCC(CC2)[C@H]2O[C@H](C3=CC=C(C(=C3C2)OC)C)CNC=O)C=C1 | C27H34FN3O4
